US06133271
With the procedure of Example 1, the reaction of benzylamine with 4-chloro-2-(pyridin-3-yl)-6-trifluoromethyl-thieno-[2,3-d]-pyrimidine yields 2-(pyridin-3-yl)-4-benzylamino-6-trifluoromethyl-thieno-[2,3-d]-pyrimidine.

reactant | benzylamine | C(C1=CC=CC=C1)N | C7H9N
reactant | 4-chloro-2-(pyridin-3-yl)-6-trifluoromethyl-thieno-[2,3-d]-pyrimidine | ClC=1C2=C(N=C(N1)C=1C=NC=CC1)SC(=C2)C(F)(F)F | C12H5ClF3N3S
product | 2-(pyridin-3-yl)-4-benzylamino-6-trifluoromethyl-thieno-[2,3-d]-pyrimidine | N1=CC(=CC=C1)C=1N=C(C2=C(N1)SC(=C2)C(F)(F)F)NCC2=CC=CC=C2 | C19H13F3N4S
